US06809097B1
A solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride (3 g, 9.8 mmol), (prepared as described for the starting material in Example 5), and 4-chloro-2-fluoroaniline (2.2 ml, 19.6 mmol) in DMF (50 ml) was heated at 150° C. for 30 minutes. After dilution with isopropanol (50 ml), the precipitate was collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride (2.05 g, 50%).

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride | 9.8 mmol, 3 g | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCOC
reactant | 4-chloro-2-fluoroaniline | 19.6 mmol, 2.2 ml | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride | 2.05 g, 50% | Cl.ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)OC)OCCOC)C=C1)F | InChI=1S/C19H18ClFN2O3.ClH/c1-24-7-8-26-19-11-17-13(10-18(19)25-2)15(5-6-22-17)23-16-4-3-12(20)9-14(16)21;/h3-6,9-11H,7-8H2,1-2H3,(H,22,23);1H
